US09376454B2
Synthesis of (R)-3-(3-amino-4,5-dihydro-1H-benzo[e][1,3]diazepine-7-carboxamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
To (R)-3-(2-(3,4-bis(aminomethyl)benzamido)-2-boronoethyl)-2-hydroxybenzoic acid (10 mg) in DMF (1 mL) was added BrCN (10 mg) and the reaction was stirred for 5 hr. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 395 (MH)+.

reactant | (R)-3-(2-(3,4-bis(aminomethyl)benzamido)-2-boronoethyl)-2-hydroxybenzoic acid | 10 mg | NCC=1C=C(C(=O)N[C@@H](CC=2C(=C(C(=O)O)C=CC2)O)B(O)O)C=CC1CN | C18H22BN3O6
reactant | BrCN | 10 mg | BrC#N | CBrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-3-(3-amino-4,5-dihydro-1H-benzo[e][1,3]diazepine-7-carboxamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NC=1NCC2=C(CN1)C=CC(=C2)C(=O)N[C@@H]2B(OC1=C(C2)C=CC=C1C(=O)O)O | C19H19BN4O5
